US06537948B1
A mixture of 0.7 g of 4-benzyloxy-3-methoxymethoxypyridine and 1N hydrochloric acid was stirred for 2 hours at 60° C. The mixture was poured into saturated aqueous sodium bicarbonate solution, extracted with ethyl acetate. The organic layer is washed with saturated saline, dried over anhydrous magnesium sulfate, concentrated to obtain 0.547 g of 4-benzyloxy-3-hydroxypyridine.

reactant | 4-benzyloxy-3-methoxymethoxypyridine | 0.7 g | C(C1=CC=CC=C1)OC1=C(C=NC=C1)OCOC | C14H15NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-benzyloxy-3-hydroxypyridine | 0.547 g | C(C1=CC=CC=C1)OC1=C(C=NC=C1)O | C12H11NO2
